US06730681B2
4-[3-(2-Fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5-yl]piperazine-1-carboxylic acid tert-butyl ester (0.28 g, 0.63 mmol) was dissolved in dichloromethane (5 ml) and hydrogen chloride bubbled through the reaction (2×10 min). The precipitate was filtered and washed with diethyl ether to give 3-(2-fluorophenyl)-5-(piperazin-1-yl)-[1,2,3]triazolo[1,5-α]quinazoline as a white solid (0.24 g, 100%). HCl salt: δH (360 MHz; DMSO) 3.30-3.41 (4H, m), 3.79-3.83 (4H, m), 7.35-7.41 (2H, m), 7.44-7.51 (1H, m), 7.78 (1H, ddd, J=8, 8 and 1), 8.05-8.12 (2H, m), 8.27 (1H, d, J=8), 8.62 (1H, dd, J=8 and 1); m/z (ES+) 349 (M+H+).

reactant | 4-[3-(2-Fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 0.28 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C3=CC=CC=C13)N=NC2C2=C(C=CC=C2)F | C24H25FN6O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(2-fluorophenyl)-5-(piperazin-1-yl)-[1,2,3]triazolo[1,5-α]quinazoline | 0.24 g, 100% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)N2CCNCC2 | C19H17FN6
